US07781431B2
Step 2: methyl 4-nitro-5-[(E)-2-phenylethenyl]thiophene-2-carboxylate
A solution (0.33 M) of methyl 5-methyl-4-nitrothiophene-2-carboxylate in MeOH, was treated with benzaldehyde (1.5 eq.). The reaction mixture was heated to reflux and when it became a clear solution a catalytic amount of pyrrolidine (0.01 eq.) was added. After 18 h at reflux additional pyrrolidine (0.01 eq.) was added. The reaction was heated to reflux for 40 h. After cooling down, evaporation of the solvent gave a residue that was purified by flash chromatography on silica gel (1:9 AcOEt/petroleum ether) to afford the title compound (67%) as a solid.

reactant | methyl 5-methyl-4-nitrothiophene-2-carboxylate | 0.33 M | CC1=C(C=C(S1)C(=O)OC)[N+](=O)[O-] | C7H7NO4S
reactant | benzaldehyde | 1.5 eq. | C(C1=CC=CC=C1)=O | C7H6O
reactant | pyrrolidine | 0.01 eq. | N1CCCC1 | C4H9N
reactant | pyrrolidine | 0.01 eq. | N1CCCC1 | C4H9N
solvent | MeOH | CO | CH4O
product | methyl 4-nitro-5-[(E)-2-phenylethenyl]thiophene-2-carboxylate | 67% | [N+](=O)([O-])C=1C=C(SC1\C=C\C1=CC=CC=C1)C(=O)OC | C14H11NO4S
